US06180632B2
cis/trans-4-(6,7-Dimethoxyquinoxalin-2-yloxy)-cyclohexanecarboxylic Acid
A mixture of cis/trans-4-hydroxy-cyclohexanecarboxylic acid (144 mg, 1 mmol) and NaH (60%, 160 mg, 4 mmol) in anhydrous THF/DMF(10 mL/2 mL) is refluxed for one hour before addition of 2-chloro-6,7-dimethoxyquinoxaline (225 mg, 1 mmol). The resulting mixture is continued to refluxed for four hours. The reaction mixture is neutralized to pH 5 and extracted with ethyl acetate (2×50 mL). The combined organic solutions are dried over magnesium sulfate and filtered. The residue after concentration is chromatographed on silica gel (ethyl acetate, followed by methanol) to provide the desired product as a white solid (m.p. 90-93° C.). Anal. Calcd. for C17H20N2O5.0.5 H2O: C, 59.89; H, 6.19; N, 8.22; Found: C, 59.91; H, 6.62; N, 7.90.

reactant | trans-4-hydroxy-cyclohexanecarboxylic acid | 1 mmol, 144 mg | O[C@@H]1CC[C@H](CC1)C(=O)O | C7H12O3
reactant | NaH | 4 mmol, 160 mg | [H-].[Na+]
reactant | 2-chloro-6,7-dimethoxyquinoxaline | 1 mmol, 225 mg | ClC1=NC2=CC(=C(C=C2N=C1)OC)OC | C10H9ClN2O2
solvent | THF DMF | 10 mL | C1CCOC1.CN(C)C=O
product | trans-4-(6,7-Dimethoxyquinoxalin-2-yloxy)-cyclohexanecarboxylic Acid | COC=1C=C2N=CC(=NC2=CC1OC)O[C@@H]1CC[C@H](CC1)C(=O)O | C17H20N2O5
